US04987132
To a solution of 600 mg of N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid in 10 ml of tetrahydrofuran, there were added, at 4° C. or below, 390 mg of L-methionine methyl ester hydrochloride, 390 mg of 1-hydroxybenzotriazole, 190 mg of N-methylmorpholine and 440 mg of dicyclohexylcarbodiimide, in that order. The mixture was stirred at 4° C. or below for 1 hour and then at room temperature for 1 hour. The resultant precipitate was filtered off, the filtrate was concentrated under reduced pressure, 50 ml of ethyl acetate was added, the insoluble matter was filtered off, and the filtrate was washed in sequence with 0.5M aqueous citric acid, water, 5% aqueous sodium hydrogen carbonate and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 440 mg of [N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carbonyl]-L-methionine methyl ester as an oil.

reactant | N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carboxylic acid | 600 mg | C(C)(C)(C)OC(=O)N1C(SCC1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | L-methionine methyl ester hydrochloride | 390 mg | Cl.COC([C@@H](N)CCSC)=O
reactant | 1-hydroxybenzotriazole | 390 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 190 mg | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 440 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [N-tert-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4-carbonyl]-L-methionine methyl ester | 440 mg | COC([C@@H](NC(=O)C1N(C(SC1)C=1C=NC=CC1)C(=O)OC(C)(C)C)CCSC)=O | C20H29N3O5S2
